US07279481B2
N-(3-iodo-phenyl)-methanesulfonamide
To a stirred solution of 3-iodoaniline (1.99 g, 9.1 mmol) in anhydrous pyridine (20 mL) at 0° C. was added methanesulfonic anhydride (1.92 g, 11 mmol) in small portions. The resulting mixture was stirred while warming from 0° C. to room temperature until all the aniline was consumed. The pyridine was removed in vacuo. The residue was partitioned between dichloromethane (100 mL) and saturated aqueous sodium hydrogencarbonate solution (100 mL). The organic layer was dried (sodium sulfate) and evaporated in vacuo. The crude product was purified by silica gel chromatography (ethyl acetate in hexane, 10% to 30%) to give the title compound as a yellow solid (2.38 g, 89%).

reactant | 3-iodoaniline | 9.1 mmol, 1.99 g | IC=1C=C(N)C=CC1 | C6H6IN
reactant | methanesulfonic anhydride | 11 mmol, 1.92 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | N-(3-iodo-phenyl)-methanesulfonamide | 2.38 g, 89% | IC=1C=C(C=CC1)NS(=O)(=O)C | C7H8INO2S
